US04065620
B. benzhydryl 7-acetamido-3-(2'-methoxycarbonylvinyl)-3-cephem-4-carboxylate
To a stirred cooled (0°-5° C.) solution containing 220 mg. of benzhydryl 7-acetamido-3-hydroxymethyl-3-cephem-4-carboxylate dissolved in 10 ml. of dry acetone there was added 15 drops of Jones reagent. The mixture was stirred at 0°-5° C. for 1 minute and then quenched with isopropanol and a small amount of saturated sodium bicarbonate solution. Ethyl acetate was added and the resulting solution was washed with saturated aqueous sodium chloride solution, saturated aqueous sodium bicarbonate solution, saturated aqueous sodium chloride solution again, dried over magnesium sulfate, filtered and evaporated under reduced pressure to give 225 mg. of benzhydryl 7-acetamido-3-formyl-3-cephem-4-carboxylate (one spot on a thin layer chromatogram). This aldehyde material was dissolved in a mixture of 10 ml. of dry benzene and 10 ml. of isopropanol. Then 1 equivalent of (carbmethoxymethylene)-triphenylphosphorane was added as a solid. The mixture was stirred for 1 hour at room temperature, evaporated under reduced pressure to dryness, taken up in ethyl acetate and washed with cold 5 percent v/v hydrochloric acid solution, saturated aqueous sodium bicarbonate solution, saturated aqueous sodium chloride solution, dried over magnesium sulfate, filtered and evaporated to give 293 mg. of the crude titled product mixed with triphenylphosphine oxide bi-product. When the crude product was applied to two commercially available preparative thin layer chromatography plates (solvent, 1:1 v/v ethyl acetate:benzene), there was obtained 90 mg. of the purified titled product whose NMR, IR and UV spectra were consistent with the assigned structure.

reactant | benzhydryl 7-acetamido-3-hydroxymethyl-3-cephem-4-carboxylate | C(C)(=O)NC1[C@@H]2N(C(=C(CS2)CO)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C23H22N2O5S
reactant | benzhydryl 7-acetamido-3-formyl-3-cephem-4-carboxylate | C(C)(=O)NC1[C@@H]2N(C(=C(CS2)C=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C23H20N2O5S
reactant | (carbmethoxymethylene)-triphenylphosphorane | 1 equivalent | C(=O)(OC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19O2P
reactant | triphenylphosphine oxide | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C18H15OP
catalyst | Jones reagent | 15 drops | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | acetone | CC(=O)C | C3H6O
product | benzhydryl 7-acetamido-3-(2'-methoxycarbonylvinyl)-3-cephem-4-carboxylate | C(C)(=O)NC1[C@@H]2N(C(=C(CS2)C=CC(=O)OC)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C26H24N2O6S
